US05468898
To a refluxing suspension of 15.71 g (140 mmol, 1.4 eq) of potassium t-butoxide in 50 ml of t-butylalcohol is dropped in a mixture of 12.17 (100 mmol) of 3-methoxybenzaldehyde and 15.70 ml (120 mmol, 1.2 eq) of dimethyl succinate dissolved in 20 ml of t-butylalcohol. The mixture is refluxed for 3 hours, concentrated in vacuo, acidified to pH ~1 using 1N HCl, and extracted with ethylacetate. The organics are dried (MgSO4) and concentrated in vacuo to give 3-carbomethoxy-4-(3-methoxyphenyl)-3-butenoic acid in the form of a yellow oil which is used directly in the next step.

reactant | potassium t-butoxide | 140 mmol, 15.71 g, 1.4 eq | CC(C)([O-])C.[K+]
reactant | 3-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | dimethyl succinate | 120 mmol, 15.70 ml, 1.2 eq | C(CCC(=O)OC)(=O)OC | C6H10O4
solvent | t-butylalcohol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | t-butylalcohol | 20 ml | C(C)(C)(C)O | C4H10O
product | 3-carbomethoxy-4-(3-methoxyphenyl)-3-butenoic acid | C(=O)(OC)C(CC(=O)O)=CC1=CC(=CC=C1)OC | C13H14O5
